US09126945B2
150.0 mg (0.29 mmol) of 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoic acid are suspended in 5.0 ml of dichlormethane p.a. 0.02 ml of N,N-dimethylformamide p.a. and 0.075 ml (0.86 mmol) oxalyl chloride are then added successively to the suspension. The reaction mixture is stirred at room temperature for 0.5 h and then heated under reflux for 40 minutes. The solvent is removed under reduced pressure on a rotary evaporator. The 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoyl chloride formed is used for the subsequent synthesis step without further purification.

reactant | 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoic acid | 0.29 mmol, 150.0 mg | ClC1=C(C(=O)O)C=C(C=C1)N(C(=O)C1=C(C(=NN1C)C(F)(F)F)C(F)(F)F)C | C15H10ClF6N3O3
reactant | N,N-dimethylformamide | 0.02 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.86 mmol, 0.075 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichlormethane | 5.0 ml | ClCCl | CH2Cl2
product | 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1)N(C(=O)C1=C(C(=NN1C)C(F)(F)F)C(F)(F)F)C | C15H9Cl2F6N3O2
